US07199265B2
2,6-Diisopropylphenol (11.6 g) was coupled with 5-fluoro-2-nitroanisole (17.5 g), using the same procedure as described in Example 30(a). After purification on column (silica gel, ethyl acetate/petrolium ether, 1:9), 16.6 g (87%) of 2-nitro-5-(2,6-diisopropyl-phenoxy)anisole was obtained.

reactant | 2,6-Diisopropylphenol | 11.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | 5-fluoro-2-nitroanisole | 17.5 g | FC=1C=CC(=C(C1)OC)[N+](=O)[O-] | C7H6FNO3
product | 2-nitro-5-(2,6-diisopropyl-phenoxy)anisole | 16.6 g, 87% | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=CC=C1C(C)C)C(C)C)OC | C19H23NO4
